US07700786B2
Potassium carbonate (2.8 g, 20.0 mmol) was added to a solution of 3-hydroxy-5-methylpyrazole (1.47 g, 15.0 mmol) and 3,5-dichloro-4-fluorobenzotrifluoride (3.5 g, 15.0 mmol) in DMF (30 ml), and the mixture was stirred under heating at 60° C. for 6 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid (70 ml) and extracted with ethyl acetate (30 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10→1/7), to give a white solid of 3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole (2.5 g, yield: 54.0%). mp: 153-155° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.27 (s, 3H), 5.68 (s, 1H), 7.64 (s, 2H), 8.75-9.70 (br s, 1H).

reactant | Potassium carbonate | 20.0 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-hydroxy-5-methylpyrazole | 15.0 mmol, 1.47 g | OC1=NNC(=C1)C | C4H6N2O
reactant | 3,5-dichloro-4-fluorobenzotrifluoride | 15.0 mmol, 3.5 g | ClC=1C=C(C=C(C1F)Cl)C(F)(F)F | C7H2Cl2F4
reactant | hydrochloric acid | 2N, 70 ml | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole | 2.5 g, yield: 54.0% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)OC1=NNC(=C1)C | C11H7Cl2F3N2O
